US07612075B2
3-(5-Chloro-thiophen-2-yl)-(E)-acrylic acid
To a mixture of 3-(5-chloro-thiophen-2-yl)-(E)-acrylic acid methyl ester (0.60 g, 2.96 mmol) in 15 mL of 1:1:1 THF/MeOH/H2O at 0° C. is added lithium hydroxide monohydrate (0.62 g, 14.7 mmol). The mixture is stirred at 0° C. for 1 h, then at room temperature for 1 h and concentrated in vacuo. The residue is diluted with EtOAc and washed with 1N HCl. The aqueous layer is extracted with EtOAc and the combined organics are washed with water (2×), dried, filtered and concentrated to provide the title compound (0.54 g, 2.86 mmol) as a white solid. The crude material can be used in the subsequent step without further purification. 1H NMR (CDCl3, 300 MHz) δ7.65 (d, 1H), 7.05 (d, 1H), 6.90 (d, 1H), 6.10 (d, 1H).

reactant | 3-(5-chloro-thiophen-2-yl)-(E)-acrylic acid methyl ester | 2.96 mmol, 0.60 g | COC(\C=C\C=1SC(=CC1)Cl)=O | C8H7ClO2S
reactant | lithium hydroxide monohydrate | 14.7 mmol, 0.62 g | O.[OH-].[Li+]
solvent | THF MeOH H2O | 15 mL | C1CCOC1.CO.O
product | 3-(5-Chloro-thiophen-2-yl)-(E)-acrylic acid | 2.86 mmol, 0.54 g | ClC1=CC=C(S1)/C=C/C(=O)O | C7H5ClO2S
